US05633276
2-Azido-3-(2,3-dihydro-benzofuran-5-yl)-acrylic acid methyl ester
To a cold (-10° C.) stirred solution of potassium tert-butoxide (6.06 g) in dry methanol (40 ml) was added dropwise a mixture of 2,3-dihydrobenzofuran-5-carboxaldehyde (2 g) and methyl azidoacetate (6.21 g). The mixture was stirred for 1 h at -10° C. and then stored at 0° C. for 18 h. The resulting pale yellow microcrystals were collected by filtration to give the title compound (3.12 g), m.p. 77°-80° C.

reactant | potassium tert-butoxide | 6.06 g | CC(C)([O-])C.[K+]
reactant | 2,3-dihydrobenzofuran-5-carboxaldehyde | 2 g | O1CCC2=C1C=CC(=C2)C=O | C9H8O2
reactant | methyl azidoacetate | 6.21 g | N(=[N+]=[N-])CC(=O)OC | C3H5N3O2
solvent | methanol | 40 ml | CO | CH4O
product | 2-Azido-3-(2,3-dihydro-benzofuran-5-yl)-acrylic acid methyl ester | 3.12 g | COC(C(=CC=1C=CC2=C(CCO2)C1)N=[N+]=[N-])=O | C12H11N3O3
